* sg13g2_IOPadIn

* Split from sg13g2_io.spi on 2026-08-03; contains sg13g2_IOPadIn and its
* 9 supporting subckts. Edit the source netlist, not this file.


* Autogenerated file; please don't edit
* date: 2024-05-27 14:30:57.050559

************************************************************************
*
* Copyright 2024 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************



* sg13g2_GuardRing_P576W948HFF
.subckt sg13g2_GuardRing_P576W948HFF conn

.ends sg13g2_GuardRing_P576W948HFF

* sg13g2_GuardRing_P456W948HFF
.subckt sg13g2_GuardRing_P456W948HFF conn

.ends sg13g2_GuardRing_P456W948HFF

* sg13g2_GuardRing_N1324W456HTF
.subckt sg13g2_GuardRing_N1324W456HTF conn

.ends sg13g2_GuardRing_N1324W456HTF

* sg13g2_SecondaryProtection
.subckt sg13g2_SecondaryProtection iovdd iovss pad core
XR pad core iovss rppd l=2.0um w=1.0um
Xguard1 iovss sg13g2_GuardRing_P576W948HFF
XDN iovss core dantenna l=3.1um w=0.64um
Xguard2 iovss sg13g2_GuardRing_P456W948HFF
XDP core iovdd dpantenna l=0.64um w=4.98um
Xguard3 iovdd sg13g2_GuardRing_N1324W456HTF
.ends sg13g2_SecondaryProtection

* sg13g2_LevelDown
.subckt sg13g2_LevelDown vdd vss iovdd iovss pad core
Xn_hvinv vss padres padres_n vss sg13_hv_nmos l=0.45um w=2.65um
Xp_hvinv vdd padres padres_n vdd sg13_hv_pmos l=0.45um w=4.65um
Xn_lvinv core padres_n vss vss sg13_lv_nmos l=0.13um w=2.75um
Xp_lvinv core padres_n vdd vdd sg13_lv_pmos l=0.13um w=4.75um
Xsecondprot iovdd vss pad padres sg13g2_SecondaryProtection
.ends sg13g2_LevelDown

* sg13g2_GuardRing_N7276W2716HFF
.subckt sg13g2_GuardRing_N7276W2716HFF conn

.ends sg13g2_GuardRing_N7276W2716HFF

* sg13g2_DCNDiode
.subckt sg13g2_DCNDiode anode cathode guard
Xdcdiode[0] anode cathode dantenna l=1.26um w=27.78um
Xdcdiode[1] anode cathode dantenna l=1.26um w=27.78um
Xguard guard sg13g2_GuardRing_N7276W2716HFF
.ends sg13g2_DCNDiode

* sg13g2_GuardRing_P7276W2716HFF
.subckt sg13g2_GuardRing_P7276W2716HFF conn

.ends sg13g2_GuardRing_P7276W2716HFF

* sg13g2_DCPDiode
.subckt sg13g2_DCPDiode anode cathode guard
Xdcdiode[0] anode cathode dpantenna l=1.26um w=27.78um
Xdcdiode[1] anode cathode dpantenna l=1.26um w=27.78um
Xguard guard sg13g2_GuardRing_P7276W2716HFF
.ends sg13g2_DCPDiode

* sg13g2_IOPadIn
* FITS TO SCH .subckt sg13g2_IOPadIn vss vdd iovss iovdd p2c pad
.subckt sg13g2_IOPadIn iovdd iovss p2c pad vdd vss
Xdcndiode vss pad iovdd1 sg13g2_DCNDiode
Xdcpdiode pad iovdd vss sg13g2_DCPDiode
Xleveldown vdd vss iovdd vss pad p2c sg13g2_LevelDown
.ends sg13g2_IOPadIn
